US04621084
6-(3,7-Dimethylimidazo[1,2-a]pyridin-2-yl)-2-methylaminobenzothiazole (0.46 g) was prepared in substantially the same manner as that of Example 36 from 3,7-dimethyl-2-[4-(3-methylthioureido)phenyl]-imidazo[1,2-a]pyridine (4.0 g) and bromine (2.08 g).

reactant | 3,7-dimethyl-2-[4-(3-methylthioureido)phenyl]-imidazo[1,2-a]pyridine | 4.0 g | CC1=C(N=C2N1C=CC(=C2)C)C2=CC=C(C=C2)NC(=S)NC | C17H18N4S
reactant | bromine | 2.08 g | BrBr | Br2
product | 6-(3,7-Dimethylimidazo[1,2-a]pyridin-2-yl)-2-methylaminobenzothiazole | 0.46 g | CC1=C(N=C2N1C=CC(=C2)C)C2=CC1=C(N=C(S1)NC)C=C2 | C17H16N4S
